US08357693B2
A solution of tert-butyl 5-(2-(3-(2-tert-butoxy-2-oxoethoxy)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate was stirred in CH2Cl2 (2 mL) and TFA (2 mL) for 1 h. The volatiles were removed in vacuo and the residue was triturated with ethyl ether. The crude product was purified using prep HPLC (method 10-35—90 mins) to afford to give 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid. (0.43 mg, 0.10 mmol)

reactant | tert-butyl 5-(2-(3-(2-tert-butoxy-2-oxoethoxy)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(C)(C)OC(COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O | C32H33N5O5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)O)C=CC1 | C23H17N5O3
